US09290609B2
Amine 10:
according to the general preparation protocol for the reductive alkylation, 30.4 g of vanillin (=4-hydroxy-2-methoxybenzaldehyde) and 13.6 g of MXDA were reacted. There was obtained a clear, orange oil with a viscosity of 62,380 mPa·s at 60° C. and an amine content of 5.0 mmol N/g.

reactant | vanillin | 30.4 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | MXDA | 13.6 g | C1=CC(=CC(=C1)CN)CN | C8H12N2
product | Amine 10 | CCCCCCCCCCN | C10H23N
